US04130715
In a manner similar to that of Example 2 (A), 5.00 g (29.1 mmol) of 1,4,7,10-tetraazacyclododecane, 3.46 g of dimethylformamide dimethyl acetal and 50 ml of dry benzene gave 5.00 g of colorless liquid, bp 88.5°-90° (0.30 mm). Analytically pure 1,4,7,10-tetraazatricyclo[5.5.1.04,13 ]tridecane was obtained by distillation of this material through a spinning band column, bp 82°-83° (two fractions) (0.25 mm) One fraction had nD25 = 1.5331. The other fraction was analyzed.

reactant | 1,4,7,10-tetraazacyclododecane | 29.1 mmol, 5.00 g | N1CCNCCNCCNCC1 | C8H20N4
reactant | dimethylformamide dimethyl acetal | 3.46 g | COC(N(C)C)OC | C5H13NO2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1,4,7,10-tetraazatricyclo[5.5.1.04,13 ]tridecane | N12CCN3CCN(CCNCC1)C23 | C9H18N4
